US07592334B2
(c) 2,3-Dihydro-[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde
A solution of (2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)-methanol (250 mg, 1.5 mmol) in dichloromethane (5 mL) was treated with manganese dioxide (650 mg, 7.5 mmol). After 3 days the mixture was filtered and evaporated affording a white solid (150 mg, 61%); MS (APCI+) m/z 166 (MH+).

reactant | (2,3-dihydro-[1,4]dioxino[2,3-c]pyridin-7-yl)-methanol | 1.5 mmol, 250 mg | O1CCOC=2C=NC(=CC21)CO | C8H9NO3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 7.5 mmol, 650 mg | [O-2].[O-2].[Mn+4]
product | 2,3-Dihydro-[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | 150 mg, 61% | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
